US06589977B1
To a solution of 3-(1H-indol-3-yl)-2-(1-methyl-1H-indol-3-yl)-N-methylmaleimide (60 mg, 0.17 mmol) in DMF (1 mL) was added a small amount of 10% palladium-carbon, and the whole was stirred at room temperature for 1 day under hydrogen atmosphere. The palladium-carbon was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography over silica gel (ethyl acetate:n-hexane =2:1) to obtain 4-(1H-indol-3-yl)-3-(1-methyl-1H-indol-3-yl)-1-methyl-2,5-dioxopyrrolidine (60 mg, 99.6%) as pale red solids. 1H-NMR(CDCl3): δ 3.27(s, 3H), 3.34(s, 3H), 4.76(s, 2H) 6.58-7.32(m, 10H), 7.72(br s, 1H).

reactant | 3-(1H-indol-3-yl)-2-(1-methyl-1H-indol-3-yl)-N-methylmaleimide | 0.17 mmol, 60 mg | N1C=C(C2=CC=CC=C12)C1=C(C(=O)N(C1=O)C)C1=CN(C2=CC=CC=C12)C | C22H17N3O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | palladium-carbon | [C].[Pd]
product | 4-(1H-indol-3-yl)-3-(1-methyl-1H-indol-3-yl)-1-methyl-2,5-dioxopyrrolidine | 60 mg, 99.6% | N1C=C(C2=CC=CC=C12)C1C(C(N(C1=O)C)=O)C1=CN(C2=CC=CC=C12)C | C22H19N3O2
